US05183925
4-[2-[(1Z,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]-butyric acid
Under the conditions of example 9, a solution of 60 mg of 4-[2-[(1Z,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]-butyric acid ethyl ester in 5 ml of methanol and 2 ml of 0.5 n sodium hydroxide solution is saponified, worked up and chromatographed on silica gel with n-hexane/ethyl acetate=98/2. 55 mg of the title compound is obtained as a colorless oil.

reactant | 4-[2-[(1Z,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]-butyric acid ethyl ester | 60 mg | C(C)OC(CCCOC1=C(C=CC=C1)\C=C/C=C/C(CCCCCCCC)O)=O | C25H38O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 4-[2-[(1Z,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]-butyric acid | 55 mg | OC(/C=C/C=C\C1=C(OCCCC(=O)O)C=CC=C1)CCCCCCCC | C23H34O4
